US06953855B2
Scaffold 2: 3-Amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane
To a stirred solution of 2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octan-3-one (3.00 g, 13.9 mmol) in dry methanol (20 mL), under nitrogen, was added a 1 M solution of ZnCl2 in ether (2.78 mL, 2.78 mmol). After stirring at ambient temperature for 30 min, this mixture was treated with solid ammonium formate (10.4 g, 167 mmol). After stirring another hour at ambient temperature, solid sodium cyanoborohydride (1.75 g, 27.8 mmol) was added in portions. The reaction was then stirred at ambient temperature overnight and terminated by addition of water (˜5 mL). The quenched reaction was partitioned between 5 M NaOH (10 mL) and chloroform (20 mL). The aqueous layer was extracted with chloroform (20 mL), and combined organic layers were dried (Na2SO4), filtered and concentrated. This left 2.97 g of yellow gum. GC/MS analysis indicated that the product was a 90:10 mixture of the cis and trans amines, along with a trace of the corresponding alcohol (98% mass recovery).

reactant | 2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octan-3-one | 13.9 mmol, 3.00 g | N1=CC(=CC=C1)CC1N2CCC(C1=O)CC2 | C13H16N2O
reactant | ether | 2.78 mmol, 2.78 mL | CCOCC | C4H10O
reactant | ammonium formate | 167 mmol, 10.4 g | C(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 27.8 mmol, 1.75 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 3-Amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane | NC1C(N2CCC1CC2)CC=2C=NC=CC2 | C13H19N3
